US09216980B2
Step 2: 5-Bromo-2,6′-difluoro-[3,4]bipyridinyl-3′-ylamine
A mixture of 6-fluoro-4-iodopyridin-3-ylamine (1.57 g, 6.59 mmol), 2-fluoro-5-bromopyridine-3-boronic acid (2.17 g, 9.89 mmol) and 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.43 g, 0.53 mmol) in acetonitrile (25 mL) and 1N aqueous potassium fluoride solution (25 mL) was degassed with nitrogen for 20 minutes. The reaction mixture was heated at 80° C. for 3 h, allowed to cool to ambient temperature and then partitioned between ethyl acetate (100 mL) and water (75 mL). The organic layer was separated, dried over sodium sulfate, filtered and evaporated in vacuo. The resultant residue was purified by flash chromatography (silica, 40 g column, ISCO, 0-50% ethyl acetate in cyclohexane) to afford the title compound as an brown solid (0.54 g, 29%). 1H NMR (CDCl3, 300 MHz): 8.37 (dd, J=2.5, 1.4 Hz, 1H), 7.99 (dd, J=8.1, 2.5 Hz, 1H), 7.79 (d, J=1.5 Hz, 1H), 6.74 (d, J=2.8 Hz, 1H), 3.62 (s, 2H). LCMS (Method B): RT=3.01 min, M+H+=286/288.

reactant | 6-fluoro-4-iodopyridin-3-ylamine | 6.59 mmol, 1.57 g | FC1=CC(=C(C=N1)N)I | C5H4FIN2
reactant | 2-fluoro-5-bromopyridine-3-boronic acid | 9.89 mmol, 2.17 g | FC1=NC=C(C=C1B(O)O)Br | C5H4BBrFNO2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 1N, 25 mL | [F-].[K+]
product | 5-Bromo-2,6′-difluoro-[3,4]bipyridinyl-3′-ylamine | 0.54 g, 29% | BrC=1C=C(C(=NC1)F)C1=C(C=NC(=C1)F)N | C10H6BrF2N3
